* NDH832P ELECTRICAL MODEL (SuperSOT-8 P-Ch DMOS) (Preliminary)
* ------------------------
.SUBCKT  NDH832P  20  10  30
Rg     10    1    1
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS PMOS (VTO={-0.9*{-0.00296*TEMP+1.074}}  KP={-0.02*TEMP+14.5}
+ THETA=0.086  VMAX=4E5  LEVEL=3)
Cgs     1    3    600p
Rd     20    4    4m TC=0.004
Dds     4    3    DDS
.MODEL     DDS    D(BV={20*{0.000624*TEMP+0.9844}}   M=0.3  CJO=600p   VJ=0.8)
Dbody   20   3    DBODY
.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=40m   TT=100n)
Ra      4    2    8m TC=0.004
Rs      3    5    1m
Ls      5    30   0.5n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    PMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    2500p
Rcgd    7    4    10meg
Dgd     4    6    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.5   CJO=2200p   VJ=0.12)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS NDH832P
*
* NDH832P THERMAL MODEL
* ---------------------
.SUBCKT   832PTHM   50  40  100

Rop       50   60   1meg
Cop       60   70   1u   IC=0
E_W       40   70   40   60  1meg

E_Pave    80   40   VALUE = {V(40,70)/(TIME+1n)}
R80       80   40   1k

E_Tja     100   40   VALUE = {V(80,40)*156*V(90,40)}
R100      100   40   1k

R90       90   40   1k
E_rja     90   40   table {TIME} ; Normalized NDH832P Single Pulsed rja(t)
+(0.0001,0.0009)
+(0.001,0.005)
+(0.01,0.023347)
+(0.05,0.059072)
+(0.1,0.087589)
+(0.2,0.130696)
+(0.5,0.224473)
+(1,0.324895)
+(2,0.4391)
+(10,0.702954)
+(20,0.803376)
+(50,0.900844)
+(100,0.962025)
+(200,1)
+(300,1)
.ENDS 832PTHM
